US08623889B2
Step 6: 7-(tert-butoxycarbonylamino)-3-(5-fluoro-4-methylpyridin-3-yl)-2,6-naphthyridine 2-oxide
A mixture of 7-chloro-3-(5-fluoro-4-methylpyridin-3-yl)-2,6-naphthyridine 2-oxide (150 mg, 0.52 mmol), tert-butyl carbamate (121 mg, 1.04 mmol), 2-(dicyclohexylphosphino)3,6-dimethoxy-2′,4′,6′-triisopropyl-1,1′-biphenyl (58 mg, 0.10 mmol), chloro[2-(dicyclohexylphosphino)-3,6-dimethoxy-2′-4′-6′-tri-1-propyl-1,1′-biphenyl][2-(2-aminoeth yl)phenyl]palladium(II) (42 mg, 0.052 mmol), and cesium carbonate (341 mg, 1.04 mmol) in dioxane (2.5 mL) was heated at 100° C. for 8 hours in a vial sealed with a Teflon cap. The reaction mixture was diluted with dichloromethane (50 mL) and methanol (5 mL), filtered over Celite, and concentrated in vacuo to provide a residue that was purified by flash chromatography (12 g, Silica, 0-10% methanol in dichloromethane). Desired fractions were combined and evaporated in vacuo to afford the title compound as a yellow solid (73 mg, 38%). 1H NMR (400 MHz, DMSO) δ 10.16 (s, 1H), 9.14 (s, 1H), 9.08 (s, 1H), 8.62 (s, 1H), 8.39 (s, 1H), 8.21 (s, 1H), 8.16 (s, 1H), 1.52 (s, 9H).

reactant | 7-chloro-3-(5-fluoro-4-methylpyridin-3-yl)-2,6-naphthyridine 2-oxide | 0.52 mmol, 150 mg | ClC1=NC=C2C=C([N+](=CC2=C1)[O-])C=1C=NC=C(C1C)F | C14H9ClFN3O
reactant | tert-butyl carbamate | 1.04 mmol, 121 mg | C(N)(OC(C)(C)C)=O | C5H11NO2
reactant | 2-(dicyclohexylphosphino)3,6-dimethoxy-2′,4′,6′-triisopropyl-1,1′-biphenyl | 0.10 mmol, 58 mg | C1(CCCCC1)P(C1=C(C(=CC=C1OC)OC)C1=C(C=C(C=C1C(C)C)C(C)C)C(C)C)C1CCCCC1 | C35H53O2P
reactant | cesium carbonate | 1.04 mmol, 341 mg | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | dioxane | 2.5 mL | O1CCOCC1 | C4H8O2
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
solvent | methanol | 5 mL | CO | CH4O
product | 7-(tert-butoxycarbonylamino)-3-(5-fluoro-4-methylpyridin-3-yl)-2,6-naphthyridine 2-oxide | 73 mg, 38% | C(C)(C)(C)OC(=O)NC1=NC=C2C=C([N+](=CC2=C1)[O-])C=1C=NC=C(C1C)F | C19H19FN4O3
